US07994176B2
3-Cyano-2-(4,4-difluoro-piperidin-1-yl)-propionic acid methyl ester
Treat a −78° C. solution of (4,4-difluoro-piperidin-1-yl)-acetic acid methyl ester (14.21 g, 73.6 mmol) (Preparation 33) in THF (150 mL) with a 2M solution of lithium diisopropylamide in heptane/THF/ethylbenzene (44.2 mL, 88.4 mmol) and stir at −78° C. for 20 minutes under N2. Treat the reaction with bromoacetonitrile (13.25 g, 110.5 mmol) and stir at −78° C. for 15 minutes. Warm the reaction to room temperature and stir 4 hours. Pour the reaction into saturated NH4Cl. Dilute the reaction with ethyl acetate and wash with water. Dry the organic layer with Na2SO4 and remove the solvent in vacuo to afford crude product. Then, purify on silica with a 0 to 100% ethyl acetate in hexanes gradient to afford 3.74 g (22%) of the titled product. Rf=0.50 (1/1 hexanes/ethyl acetate). ES MS (m/z): 233 (M+).

reactant | (4,4-difluoro-piperidin-1-yl)-acetic acid methyl ester | 73.6 mmol, 14.21 g | COC(CN1CCC(CC1)(F)F)=O | C8H13F2NO2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | heptane THF ethylbenzene | 88.4 mmol, 44.2 mL | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
reactant | bromoacetonitrile | 110.5 mmol, 13.25 g | BrCC#N | C2H2BrN
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Cyano-2-(4,4-difluoro-piperidin-1-yl)-propionic acid methyl ester | 3.74 g, 22% | COC(C(CC#N)N1CCC(CC1)(F)F)=O | C10H14F2N2O2
